datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72])C=C1.CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71](C1=CC=CC=C1)=[O:72])[C:31](=[O:32])[N:33](C)C)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][C:20]([C:31]3=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12"
"CC[O:72][C:61]([C:10](=[C:11](C1=CC=CC=C1)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC[O:72][C:61]([C:10]([C:11](C1=CC=CC=C1)=[O:12])([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S:10][C:20]2([O-:21])[C:32](=[O:33])[C:31](Cl)=[C:30](Cl)[C:42](Cl)=[C:41]2Cl)[CH:72]=[CH:73]1 10=20;20,21=21"
C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:72]>>CC[O:82][C:71]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N2CCCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N2CCCC2)[CH:45]=[CH:46]1)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:72] 10=20
"C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][CH:11]=[CH2:10].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[CH:11][CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:11]2=[N:10]CCC[NH:12]2)C=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CCC[NH+:12]=[C:11]2C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH2:10][C+:11](C)[CH2:62][Fe-2:63]2345(C#[O+])(C#[O+])C6C2C3C4C65)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].C[C:11](=[CH2:10])[C:62](C)=[CH2:63]>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH2:10][C+:11](C)[C:62](C)=[CH2:63])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](C)=[CH2:10].F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[Si](C)(C)O[N+:12](O[Si](C)(C)C)=[C:11](C)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
CC1=CC=C([C@H]2N(C)[C:62](=[O:63])[C@H:61](CC3=CC=CC=C3)[NH:10]2)O1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC=C([C@H]2N(C)[C:62](=[O:63])[C@H:61](CC3=CC=CC=C3)[NH+:10]2[C:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)O1 10=20
F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([C:20]([C:31]3=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20
